US04666962
3-[N,N-dibenzylaminoxy]propanoic acid
A solution of 22.4 g of methyl 3-[N,N-dibenzylaminoxy]propanoate and 4.50 g of potassium hydroxide in 200 ml of tetrahydrofuran and 200 ml of water is heated under reflux for 12 hours under N2. The mixture is concentrated under reduced pressure and the residue is partitioned between water and ether. The combined aqueous extracts are acidified with hydrochloric acid and then extracted with methylene chloride. The combined organic extracts are dried (MgSO4) and evaporated under reduced pressure to afford the title compound as a pale yellow oil.

reactant | methyl 3-[N,N-dibenzylaminoxy]propanoate | 22.4 g | C(C1=CC=CC=C1)N(OCCC(=O)OC)CC1=CC=CC=C1 | C18H21NO3
reactant | potassium hydroxide | 4.50 g | [OH-].[K+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 3-[N,N-dibenzylaminoxy]propanoic acid | C(C1=CC=CC=C1)N(OCCC(=O)O)CC1=CC=CC=C1 | C17H19NO3
